US07196103B2
(iii) 1H-Indole-2,4-dicarboxylic acid 4-methyl ester
To a solution of 3.8 g 1H-Indole-2,4-dicarboxylic acid 2-tert-butyl ester 4-methyl ester were dissolved in 100 ml TFA. After 1 h at RT 150 ml toluene were added and the solvents were removed under reduced pressure. The residue was lyophilised after addition of water and acetonitrile. Yield: 2 g.

reactant | 1H-Indole-2,4-dicarboxylic acid 2-tert-butyl ester 4-methyl ester | 3.8 g | COC(=O)C=1C=2C=C(NC2C=CC1)C(=O)OC(C)(C)C | C15H17NO4
reactant | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | TFA | 100 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1H-Indole-2,4-dicarboxylic acid 4-methyl ester | COC(=O)C=1C=2C=C(NC2C=CC1)C(=O)O | C11H9NO4
